US05241107
Using the procedure outlined in Example 2A, 10-chloroanthracene-9-carbaldehyde (Aldrich) and 1,2-propyleneglycol (Aldrich) gave a 29.5% yield of 10-[2-(hydroxy)propoxy]anthracene-9-carbaldehyde, mp 84°-86°, (C,H), (pentane).

reactant | 10-chloroanthracene-9-carbaldehyde | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
reactant | 1,2-propyleneglycol | C(C(C)O)O | C3H8O2
solvent | pentane | CCCCC | C5H12
product | 10-[2-(hydroxy)propoxy]anthracene-9-carbaldehyde | 29.5% yield | OC(COC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O)C | C18H16O3
